US04451463
Yellow mercuric oxide (0.295 g.) was added to a solution of 1-(4-hydroxybutyl)-3-(3-phenylthioureido)pyrazole (100 mg.) in ethanolic ammonia (6 M; 10 ml.). The mixture was stirred at room temperature for 48 hours, centrifuged to remove the precipitated mercuric sulphide, and the supernatant evaporated to dryness in vacuo to give 1-(4-hydroxybutyl)-3-(2-phenylguanidino)pyrazole (98 mg; 100%) having the following n.m.r. spectrum in d6DMSO: 7.3 (br m, 9H); 5.7 (d, 1H); 4.2 (br m, 1H); 3.9 (t, 2H); 3.3 (t, 2H); 1.5 (br m, 4H).

reactant | 1-(4-hydroxybutyl)-3-(3-phenylthioureido)pyrazole | 100 mg | OCCCCN1N=C(C=C1)NC(=S)NC1=CC=CC=C1 | C14H18N4OS
reactant | ammonia | 6 M, 10 ml | N | H3N
product | 1-(4-hydroxybutyl)-3-(2-phenylguanidino)pyrazole | 98 mg, 100% | OCCCCN1N=C(C=C1)NC(=NC1=CC=CC=C1)N | C14H19N5O
